US05087640
To a solution of 2.5 g of N-(3,5-dichlorophenyl)-N'-(1,2,2-trimethylpropyl)thiourea produced in Example A-6 in 50 ml of THF were added 2.2 g of DCC and 0.36 g of triethylamine. The mixture was refluxed for 4 hours and evaporated in vacuo. The residue was extracted with petroleum ether. The extract was evaporated in vacuo to give N-(3,5-dichlorophenyl)-N'-(1,2,2-trimethylpropyl)carbodiimide as an oil. To a solution of this oil in 20 ml of THF were added 1.0 g of cyanamide and 1 ml of diisopropylethylamine. The mixture was refluxed for 40 hours and evaporated in vacuo. The residue was recrystallized from benzene to give 1.2 g of the title compound as colorless needles melting at 154.0°-156.0° C.

reactant | N-(3,5-dichlorophenyl)-N'-(1,2,2-trimethylpropyl)thiourea | 2.5 g | ClC=1C=C(C=C(C1)Cl)NC(=S)NC(C(C)(C)C)C | C13H18Cl2N2S
reactant | DCC | 2.2 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | triethylamine | 0.36 g | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | N-(3,5-dichlorophenyl)-N'-(1,2,2-trimethylpropyl)carbodiimide | ClC=1C=C(C=C(C1)Cl)N=C=NC(C(C)(C)C)C | C13H16Cl2N2
